US06566357B1
Preparation of 2-phenoxy-pyrimidine-4-carboxylic acid (15):
To a solution of 2-phenoxy-pyrimidine-4-carboxylic acid methyl ester, 14, (1.72 g, 74.8 mmol) in methanol (50 mL) is added a 50% NaOH solution (10 mL) at room temperature. After stirring for 1.5 hours the solvent is removed in vacuo and the remaining aqueous phase is extracted with ethyl acetate. The aqueous phase can then be carefully acidified with concentrated HCl and the white solid which forms extracted twice with ethyl acetate. The organic layers are combined, dried and concentrated in vacuo to afford 0.95 g (60% yield) of the desired product as a white solid.

reactant | 2-phenoxy-pyrimidine-4-carboxylic acid methyl ester | COC(=O)C1=NC(=NC=C1)OC1=CC=CC=C1 | C12H10N2O3
reactant | NaOH | 10 mL | [OH-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 2-phenoxy-pyrimidine-4-carboxylic acid | 0.95 g, 60% yield | O(C1=CC=CC=C1)C1=NC=CC(=N1)C(=O)O | C11H8N2O3
